data/oMe_Silver.jsonl
{"reaction_id": "NR-236_1-c1ccccc1_2-CCC","level": "medium","name": "Sommelet Reaction","reactants_smiles": ["c1ccccc1C(CCC)Br","C1N2CN3CN1CN(C2)C3"],"products_smiles": ["c1ccccc1C(CCC)=O"],"conditions": "H2O","mechanism_step_nums": 4,"mechanism": [{"step": 1,"type": "substitution","subtype": "nucleophilic_substitution","intermediate_smiles": "C1N2CN3CN1C[N+](C(c1ccccc1)(CCC))(C2)C3","step_weight": 0,"rationale": "The benzylic carbon is highly electrophilic due to resonance stabilization of the developing cation, and bromide is a good leaving group, enabling nucleophilic substitution by hexamine to form a stable quaternary ammonium salt."},{"step": 2,"type": "pericyclic","subtype": "sigmatropic_rearrangement","intermediate_smiles": "C1N2[CH2]N(C[N+]1=[CH2])CN(C2)C(c1ccccc1)(CCC)","step_weight": 0,"rationale": "The quaternary ammonium salt undergoes [2,3]-sigmatropic rearrangement driven by relief of ring strain and formation of a conjugated iminium system, which is stabilized by adjacent aromatic or electron-donating effects."},{"step": 3,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "[CH2]1N2CN(C[N]1C)C[N+](C2)=C(c1ccccc1)(CCC)","step_weight": 0,"rationale": "Water, abundant under the reaction conditions, attacks the electrophilic iminium carbon due to its strong partial positive charge, forming a carbinolamine intermediate stabilized by adjacent nitrogen."},{"step": 4,"type": "substitution","subtype": "nucleophilic_substitution","intermediate_smiles": "c1ccccc1C(CCC)=O","step_weight": 0,"rationale": "The carbinolamine eliminates the amine, favored by the stability of the departing amine and the formation of a strong C=O bond in the aldehyde product."}],"description": "Hexamine attacks the benzylic bromide to form a stable quaternary ammonium salt, which rearranges via a [2,3]-sigmatropic shift to an iminium ion. Hydrolysis under aqueous conditions converts the iminium to a carbinolamine, which eliminates amine to yield the aldehyde."}
